* TGB_100R_3V3 -- CMOS transmission gate, 3.3 V domain, ~100 ohm on-resistance
* AutoHV BiCMOS 180 PDK | NMOS3V3/PMOS3V3, L = 0.35 um, Wp/Wn = 2.5
*
* Bodies are brought out on pins bn (NMOS) and bp (PMOS) so the caller
* can bias them.  Driving bn/bp to the switch terminal removes the body
* effect and lowers Ron by 1.4x (5 V) to 1.9x (1.8 V); see ../REPORT.md.
* bn must never sit above, and bp never below, either switch terminal.
* The internal inverter always takes its bodies from the rails.
*
* Port order:  a b en bn bp vdd gnd
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/TGB_100R_3V3.lib"
*   X1 sig1 sig2 enable 0 vdd vdd 0 TGB_100R_3V3
*
* Typical Ron 100 ohm at TT / 3.3 V / 27 C, worst case over the input
* level.  PVT envelope and the guaranteed input window: ../REPORT.md.

.subckt TGB_100R_3V3 a b en bn bp vdd gnd
* control inverter: enb = !en  (bodies always on the rails)
XINVP enb en vdd vdd PMOS3V3 W=11.5u M=1 L=0.35u
XINVN enb en gnd gnd NMOS3V3 W=4.6u M=1 L=0.35u
* pass pair
XN b en  a bn NMOS3V3 W=46u M=1 L=0.35u
XP b enb a bp PMOS3V3 W=57.5u M=2 L=0.35u
.ends TGB_100R_3V3
